US06339154B1
2-[3-(4-Benzylpiperazino)-3-oxopropyl]phenyl N-octadecylcarbamate Hydrochloride (Compound 16)
4N Hydrochloric acid/ethyl acetate solution (1.08 ml) was added to a solution containing 2-[3-(4-benzylpiperazino)-3-oxopropyl]phenyl N-octadecylcarbamate (2.21 g) in ethyl acetate (30 ml) at room temperature. After being stirred for 30 minutes, the reaction mixture was concentrated. The residue was recrystallized with the mixed solution of ethyl acetate-ethanol, thereby yielding the entitled compound (2.07 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 1.08 ml | Cl.C(C)(=O)OCC
reactant | 2-[3-(4-benzylpiperazino)-3-oxopropyl]phenyl N-octadecylcarbamate | 2.21 g | C(CCCCCCCCCCCCCCCCC)NC(OC1=C(C=CC=C1)CCC(=O)N1CCN(CC1)CC1=CC=CC=C1)=O | C39H61N3O3
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 2-[3-(4-Benzylpiperazino)-3-oxopropyl]phenyl N-octadecylcarbamate Hydrochloride | 2.07 g | Cl.C(CCCCCCCCCCCCCCCCC)NC(OC1=C(C=CC=C1)CCC(=O)N1CCN(CC1)CC1=CC=CC=C1)=O | InChI=1S/C39H61N3O3.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-22-29-40-39(44)45-37-26-21-20-25-36(37)27-28-38(43)42-32-30-41(31-33-42)34-35-23-18-17-19-24-35;/h17-21,23-26H,2-16,22,27-34H2,1H3,(H,40,44);1H
